US05869500
5.3 ml of 1.2M aqueous sodium hypochloride solution were added dropwise to a suspension of 1.04 g (4 mmol) of 2-(4-benzyloxybenzylidene)-malononitrile in 12 ml of dioxan while stirring at pH 9-10, the mixture was stirred at room temperature for 1 hour and 2N sulphuric acid was added until a pH of 4.8 was reached. Extraction with ethyl acetate, drying with sodium sulphate and distillation of the solvent gave 1.22 g of 3-(4-benzyloxyphenyl)-oxirane-2,2-dicarbonitrile as a yellow-brown oil, which was used without further purification for the next step.

reactant | sodium hypochloride | 1.2M, 5.3 ml | Cl[O-].[Na+]
reactant | 2-(4-benzyloxybenzylidene)-malononitrile | 4 mmol, 1.04 g | C(C1=CC=CC=C1)OC1=CC=C(C=C(C#N)C#N)C=C1 | C17H12N2O
reactant | sulphuric acid | 2N | S(O)(O)(=O)=O | H2O4S
solvent | dioxan | 12 ml | O1CCOCC1 | C4H8O2
product | 3-(4-benzyloxyphenyl)-oxirane-2,2-dicarbonitrile | 1.22 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1C(O1)(C#N)C#N | C17H12N2O2
